US06855719B1
Method 27 1-[3-(4-Bromobenzoylamino)propyl]imidazole
1-(3-Aminopropyl)imidazole (2.39 ml, 0.02 mol) was added to a solution of 4-bromobenzoyl chloride (4.0 g, 0.218 mol) in ethanol (250 ml). The mixture was stirred at ambient temperature for 18 hours. The volatiles were removed by evaporation and the residue was purified by chromatography eluting with hexane/dichloromethane (50:50) increasing in polarity to dichloromethane/methanol (80:20) to give the title compound. NMR: 1.95 (m, 2H), 3.20 (q, 2H), 4.0 (t, 2H), 6.87 (s, 1H), 7.19 (s, 1H), 7.64 (d, 2H), 7.68 (s, 1H), 7.78 (d, 2H), 8.58 (t, 1H); m/z: 308 [MH]+.

reactant | 1-(3-Aminopropyl)imidazole | 0.02 mol, 2.39 ml | NCCCN1C=NC=C1 | C6H11N3
reactant | 4-bromobenzoyl chloride | 0.218 mol, 4.0 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-[3-(4-Bromobenzoylamino)propyl]imidazole | BrC1=CC=C(C(=O)NCCCN2C=NC=C2)C=C1 | C13H14BrN3O
